US08865752B2
A solution of methyl 3-(((6-(2-(dimethylamino)-1-(1H-imidazol-1-yl)butyl)benzo[d]-thiazol-2-yl)amino)methyl)benzoate (18 mg, 0.037 mmol) in 500 μL THF was treated with LiOH (10 mg, 0.238 mmol, 6.5 equiv) in 500 μL water. This was heated at 50° C. overnight. Afterwards the reaction was neutralized with 240 μL of 1N HCl and concentrated in vacuo. The residue was purified by prep-TLC using a 1 mm silica, plate eluting twice with 20% MeOH/DCM to provide 3-(((6-(2-(dimethylamino)-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazol-2-yl)amino)methyl)benzoic acid. MS ESI: m/z 462.21 [M−1+].

reactant | methyl 3-(((6-(2-(dimethylamino)-1-(1H-imidazol-1-yl)butyl)benzo[d]-thiazol-2-yl)amino)methyl)benzoate | 0.037 mmol, 18 mg | CN(C(C(N1C=NC=C1)C1=CC2=C(N=C(S2)NCC=2C=C(C(=O)OC)C=CC2)C=C1)CC)C | C25H29N5O2S
reactant | LiOH | 0.238 mmol, 10 mg, 6.5 equiv | [Li+].[OH-]
reactant | HCl | 1N, 240 μL | Cl | ClH
solvent | THF | 500 μL | C1CCOC1 | C4H8O
solvent | water | 500 μL | O | H2O
product | 3-(((6-(2-(dimethylamino)-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazol-2-yl)amino)methyl)benzoic acid | CN(C(C(N1C=NC=C1)C1=CC2=C(N=C(S2)NCC=2C=C(C(=O)O)C=CC2)C=C1)CC)C | C24H27N5O2S
